US09120825B2
In an argon atmosphere, 6.54 g (28.1 mmol) of Si(tBuNCHCHNtBu)(H)Cl was dissolved in 20 mL of hexane and after adding a vinyl magnesium chloride tetrahydrofuran solution (1.61 mol/L, 34.5 mL, 55.5 mmol), the resulting solution was stirred at room temperature for 22 hours. Insoluble matters produced were separated by filtration, and the solvent was removed by distillation from the filtrate under atmospheric pressure. The obtained residue was distilled under reduced pressure (distillation temperature: 85° C./6.1×102 Pa) to obtain 1,3-di-tert-butyl-2-vinyl-1,3-diaza-2-silacyclopent-4-ene (Si(tBuNCHCHNtBu)(H)CHCH2) as a yellow liquid (yielded amount: 3.01 g, yield: 48%).

reactant | 2-chloro-1,3-di-tert-butyl-1,3-diaza-2-silacyclopent-4-ene | 28.1 mmol, 6.54 g | Cl[SiH]1N(C=CN1C(C)(C)C)C(C)(C)C | C10H21ClN2Si
reactant | vinyl magnesium chloride tetrahydrofuran | 55.5 mmol, 1.61 mol/L, 34.5 mL | O1CCCC1.C(=C)[Mg]Cl
solvent | hexane | 20 mL | CCCCCC | C6H14
product | 1,3-di-tert-butyl-2-vinyl-1,3-diaza-2-silacyclopent-4-ene | yield: 48% | C(C)(C)(C)N1[SiH](N(C=C1)C(C)(C)C)C=C | C12H24N2Si
